US06569877B2
N-(2-Amino-5-benzyloxyphenyl)-N-methylcarbamic acid t-butyl ester
To anhydrous DMF were added benzyl alcohol (2.48 ml) and 55% NaH (1.05 g) and then N-(2-nitro-5-chlorophenyl)-N-methylcarbamic acid t-butyl ester (5.73 g) was added in small portions. The resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated and the residue partitioned between ethyl acetate and water. The extract was dried over anhydrous sodium sulfate and concentrated. The resulting residue was stirred in a mixture of dioxane (100 ml), water (10 ml), sodium hydrosulfite (20.9 g) and sodium hydrogencarbonate (21.0 g) at room temperature for 1 hour. The reaction mixture was partitioned between ethyl acetate and water and the extract was dried over anhydrous sodium sulfate and concentrated. The resulting residue was chromatographed on a silica gel column using ethyl acetate/n-hexane (1/2) as the eluant to afford the title compound (2.29 g). melting point: 86-89° C.

reactant | benzyl alcohol | 2.48 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | NaH | 1.05 g | [H-].[Na+]
reactant | N-(2-nitro-5-chlorophenyl)-N-methylcarbamic acid t-butyl ester | 5.73 g | C(C)(C)(C)OC(N(C)C1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O | C12H15ClN2O4
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(2-Amino-5-benzyloxyphenyl)-N-methylcarbamic acid t-butyl ester | 2.29 g | C(C)(C)(C)OC(N(C)C1=C(C=CC(=C1)OCC1=CC=CC=C1)N)=O | C19H24N2O3
